US06331538B1
3-Benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the General Method 5, the reaction of N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide (Example M-2, 2.00 g, 6.34 mmol) and 60% NaH in oil (380 mg, 9.52 mmol) with ethyl isocyanate (2.0 mL, 25.36 mmol) in DMA afforded 1.725 g of the title compound as a solid, mp 156-157° C.

reactant | N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide | 6.34 mmol, 2.00 g | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)Cl)Cl | C13H9Cl2FN2O2
reactant | NaH | [H-].[Na+]
reactant | ethyl isocyanate | 25.36 mmol, 2.0 mL | C(C)N=C=O | C3H5NO
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 3-Benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 1.725 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)CC)=O | C16H13ClFN3O3
